* C:\Users\joa-m\InformesElectro\TP Final Simulations\tp_final_sim.asc
L1 N001 N003 5.2m
C1 N001 N002 22µ
R1 N002 0 18
R2 N003 0 12
V1 N001 0 PULSE(0 5 1m 1p 1p 2m 4m 5)
.tran 0 0.01 0
.backanno
.end
