* C:\Users\Marcelo\Desktop\TPF_Electro_Filtro\Simulacion\Para Dibujo\SimComum.asc
V1 VCC 0 12
V2 0 VSS 12
R1 N003 N001 {mc(2.7k,tolR)}
R2 N005 Vout {mc(2.7k,tolR)}
R3 N002 N001 {mc(50k,tolR)}
R4 N001 Vin {mc(20k,tolR)}
R5 N005 Vin {mc(100k,tolR)}
R6 N004 Vin {mc(10k,tolR)}
R7 N004 N003 {mc(100k,tolR)}
R8 Vout N004 {mc(10k,tolR)}
C1 N003 N001 {mc(4n,tolC)}
C2 N002 N005 {mc(1n,tolC)}
V3 Vin 0 AC 10 0
XU1 0 N001 VCC VSS N003 TL082
XU2 0 N005 VCC VSS N002 TL082
XU3 0 N004 VCC VSS Vout TL082
.include TL082.sub
.ac dec 0.01 0.1 1000000000
.param tolR=0
.param tolC=0
.step param run 1 2 1
.backanno
.end
